US07067517B2
(6-Methoxy-pyridin-2-yl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The crude product was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and and 2-methoxy-6-methylaminopyridine. The reaction mixture was evaporated to dryness, dissolved in dichloromethane (100 ml) and extracted with a aqueous phosphate buffer, pH 7. The aqueous phase was extracted with dichloromethane (100 ml×2) and the combined organic phases were dryed and evaporated to dryness. The product was subjected to flash chromatography, ethyl acetate/heptane (1:7) to give the titlew product (86%, white crystals). HPLC-MS m/z=420.4 (M+1), Rt: 5.23 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 2-methoxy-6-methylaminopyridine | COC1=NC(=CC=C1)NC | C7H10N2O
product | (6-Methoxy-pyridin-2-yl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=NC(=CC=C1)OC)=O)(F)F | C20H16F3N3O4
